US07504417B2
To 10.7 g of 3-benzyloxy-N-(5-bromo-2-pyridyl)-2-nitrobenzamide were added 50 ml of trifluoroacetic acid and 4.88 g of pentamethylbenzene and the mixture was stirred at room temperature for 4 days. The reaction solution was concentrated in vacuo, to the residue was added a saturated aqueous solution of sodium hydrogen carbonate to such an extent that the residue did not become alkaline and the mixture was extracted with chloroform. The organic layer was extracted with 1N aqueous solution of sodium hydroxide and concentrated hydrochloric acid was added to an aqueous layer. The resulting precipitate was collected by filtration and dried in vacuo to give 7.86 g of N-(5-bromo-2-pyridyl)-3-hydroxy-2-nitrobenzamide.

reactant | 3-benzyloxy-N-(5-bromo-2-pyridyl)-2-nitrobenzamide | 10.7 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)NC2=NC=C(C=C2)Br)C=CC1)[N+](=O)[O-] | C19H14BrN3O4
reactant | pentamethylbenzene | 4.88 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(5-bromo-2-pyridyl)-3-hydroxy-2-nitrobenzamide | 7.86 g | BrC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)[N+](=O)[O-])=O | C12H8BrN3O4
